US05011947
Butyl 2-cyclopropyl-3,3-bis(4-fluorophenyl)-3-hydroxypropionate
Butyl lithium (5 mL of 2M solution, 10 mmol) was added to a solution of N-isopropylcyclohexylamine(1.4 g, 10 mmol) in 20 mL of tetrahydrofuran at -10° C. After stirring for 30 minutes and cooling to -70° C., butyl cyclopropaneacetate (1.5 g 10 mmol) was added. After stirring for an additional 30 minutes, 4,4'-difluorobenzophenone (1.1 g, 5 mmol) was added and the mixture stirred for 6 hours at -70° C. The mixture was quenched with 2N hydrochloric acid and extracted with diethyl ether. The extracts were dried and concentrated in vacuo. The residue was purified by chromatography on silica eluting with 0.75% ethyl acetate in hexane to give 1.0 g of the title compound; m.p. =77°-80° C.

reactant | Butyl lithium | 10 mmol, 2M, 5 mL | C(CCC)[Li]
reactant | N-isopropylcyclohexylamine | 10 mmol, 1.4 g | C(C)(C)NC1CCCCC1 | C9H19N
reactant | butyl cyclopropaneacetate | 10 mmol, 1.5 g | C1(CC1)CC(=O)OCCCC | C9H16O2
reactant | 4,4'-difluorobenzophenone | 5 mmol, 1.1 g | FC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C13H8F2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | Butyl 2-cyclopropyl-3,3-bis(4-fluorophenyl)-3-hydroxypropionate | 1.0 g | C1(CC1)C(C(=O)OCCCC)C(O)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C22H24F2O3
